US07585881B2
After 3-chloro-N-hydroxy-benzamidine (0.7 g, 4.1 mmol) was mixed with potassium-tert-butoxide (0.373 g, 3.33 mmol) in n-propanol at 80° C. for 10 min, 3-(4-cyclopropyl-5-pyridin-4-yl-4H-[1,2,4]triazol-3-yl)-2-methyl-propionic acid ethyl ester (1.0 g, 3.33 mmol) was added to the reaction mixture and heated at 100° C. for 3 h. The reaction mixture was concentrated, quenched with sat. ammonium chloride and extracted with DCM. The organic layer was dried with MgSO4, purified by column chromatography and triturated with Et2O to give racemic 4-(5-{2-[3-(3-chloro-phenyl)-[1,2,4]oxadiazol-5-yl]-propyl}-4-cyclopropyl-4H-[1,2,4]triazol-3-yl)-pyridine (0.8g, 59%). The title product (10 mg) was obtained by separation on Chiracel OJ with EtOH:hex. (1:4). 1H-NMR: 8.78(d, 2H), 8.05 (s, 1H), 7.96 (d, 1H), 7.74 (d, 2H), 7.50 (d, 1H), 7.43 (t, 1H), 4.15 (m, 1H), 3.64 (dd, 1H), 3.31 (m, 2H), 1.67 (d, 3H), 1.25 (m, 2H) and 0.78 (m, 2H).

reactant | 3-chloro-N-hydroxy-benzamidine | 4.1 mmol, 0.7 g | ClC=1C=C(C(=N)NO)C=CC1 | C7H7ClN2O
reactant | potassium-tert-butoxide | 3.33 mmol, 0.373 g | CC(C)([O-])C.[K+]
reactant | 3-(4-cyclopropyl-5-pyridin-4-yl-4H-[1,2,4]triazol-3-yl)-2-methyl-propionic acid ethyl ester | 3.33 mmol, 1.0 g | C(C)OC(C(CC1=NN=C(N1C1CC1)C1=CC=NC=C1)C)=O | C16H20N4O2
solvent | n-propanol | C(CC)O | C3H8O
product | racemic 4-(5-{2-[3-(3-chloro-phenyl)-[1,2,4]oxadiazol-5-yl]-propyl}-4-cyclopropyl-4H-[1,2,4]triazol-3-yl)-pyridine | 0.8g, 59% | ClC=1C=C(C=CC1)C1=NOC(=N1)C(CC=1N(C(=NN1)C1=CC=NC=C1)C1CC1)C | C21H19ClN6O
